US07291632B2
4-Bromo-N-(6-(methyl-(1-methyl-piperidin-4-yl)-amino)-pyridin-2-yl)-benzamide hydrochloride
Prepare according to procedure in Example 66 starting with N-methyl-N-(1-methyl-piperidin-4-yl)-pyridine-2,6-diamine (Preparation 34) (200 mg, 0.907 mmol), 2-bromobenzoyl chloride (142 μL, 1.09 mmol), and 1,4-dioxane (10 mL) to yield 335 mg (84%) of the title compound: mass spectrum (ion spray): m/z=404.3 (M+1); Analysis Calcd for C19H24N4OBrCl.1.1H2O: C, 49.65; H, 5.75; N, 12.19. Found: C, 49.39; H, 5.51; N, 12.46.; mp 121–3° C.

reactant | N-methyl-N-(1-methyl-piperidin-4-yl)-pyridine-2,6-diamine | 0.907 mmol, 200 mg | CN(C1=NC(=CC=C1)N)C1CCN(CC1)C | C12H20N4
reactant | 2-bromobenzoyl chloride | 1.09 mmol, 142 μL | BrC1=C(C(=O)Cl)C=CC=C1 | C7H4BrClO
reactant | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-Bromo-N-(6-(methyl-(1-methyl-piperidin-4-yl)-amino)-pyridin-2-yl)-benzamide hydrochloride | 335 mg, 84% | Cl.BrC1=CC=C(C(=O)NC2=NC(=CC=C2)N(C2CCN(CC2)C)C)C=C1 | InChI=1S/C19H23BrN4O.ClH/c1-23-12-10-16(11-13-23)24(2)18-5-3-4-17(21-18)22-19(25)14-6-8-15(20)9-7-14;/h3-9,16H,10-13H2,1-2H3,(H,21,22,25);1H
